US06469006B1
Preparation of Benzoylpiperazine XXXIX
To a stirred solution of 2-ethoxycarbonylpiperazine (4.6 g, 29.1 mmol) in dry methylene chloride (200 mL), was added benzoyl chloride (3.55 ml, 29.1 mmol) and triethylamine (2 ml) sequentially. After stirring for 8 hours at room temperature, a saturated NaHCO3 solution was added and the aqueous phase was extracted with ethyl acetate (3×200 ml). The organic layers were combined, dried over MgSO4 and concentrated to give a crude mixture, which included the desired product XXXIX. The crude was then used for the further reaction without purification.

reactant | 2-ethoxycarbonylpiperazine | 29.1 mmol, 4.6 g | C(C)OC(=O)C1NCCNC1 | C7H14N2O2
reactant | benzoyl chloride | 29.1 mmol, 3.55 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Benzoylpiperazine | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
